US09446130B2
To a solution of 3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine-7-carboxylic acid (1.63 g, 6.93 mmol) in THF (35 mL) was added dropwise (COCl)2 (4.4 g, 34.66 mmol) and 0.1 mL of DMF at 0° C., the mixture was stirred at this temperature for 1 hours and then the solvent was removed. The resulting residue was dissolved in THF (35 mL), (3-chloropyrazin-2-yl)methanamine hydrochloride (1.37 g, 7.63 mmol) and DIEA (2.68 g, 20.79 mmol) was added, the mixture was stirred at 60° C. for 1 h. Remove the solvent in vacuo and the residue was extracted with DCM and the combined organic layer was washed with water, brine and dried over anhydrous Na2SO4. The organic layer was concentrated in vacuo and the residue was purified by silica gel column chromatography (DCM/THF=100/20) to afford N4(3-chloropyrazin-2-yl)methyl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine-7-carboxamide (0.8 g, yield 32%).

reactant | 3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine-7-carboxylic acid | 6.93 mmol, 1.63 g | FC(C1=NN=C2N1CCC(C2)C(=O)O)(F)F | C8H8F3N3O2
reactant | (COCl)2 | 34.66 mmol, 4.4 g | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | (3-chloropyrazin-2-yl)methanamine hydrochloride | 7.63 mmol, 1.37 g | Cl.ClC=1C(=NC=CN1)CN
reactant | DIEA | 20.79 mmol, 2.68 g | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine-7-carboxamide | 0.8 g, yield 32% | FC(C1=NN=C2N1CCC(C2)C(=O)N)(F)F | C8H9F3N4O
